US08278343B2
Preparation 55: 3-[4-(5-Chloro-pyrimidin-2-yl)-phenoxymethyl]-1-(2-ethoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 4-(5-chloro-pyrimidin-2-yl)-phenol (Preparation 19) and 1-(2-ethoxy-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 16) to afford the racemate as a white solid (103 mg, 36.3%)

reactant | 4-(5-chloro-pyrimidin-2-yl)-phenol | ClC=1C=NC(=NC1)C1=CC=C(C=C1)O | C10H7ClN2O
reactant | 1-(2-ethoxy-benzoyl)-3-iodomethyl-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OCC)=O)CI | C17H22INO4
product | 3-[4-(5-Chloro-pyrimidin-2-yl)-phenoxymethyl]-1-(2-ethoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OCC)=O)COC1=CC=C(C=C1)C1=NC=C(C=N1)Cl | C27H28ClN3O5
